US06180627B2
3-(Cyanomethyl)-N-(methoxymethyl)benzamide
2-(3-Bromophenyl)acetonitrile (40 g, 0.20 mol) was added to a solution of 2-methoxyethylamine (61.3 g, 0.81 mol), triphenylphosphine (8.0 g, 0.03 mol), palladium acetate (4.0 g, 0.01 mol) and triethylamine (62 g, 0.61 mol) in tetrahydrofuran (400 ml). The reaction mixture was heated to 100° C. in a sealed vessel under carbon monoxide @100 psi for 18 hrs, after which time the solvent was removed under reduced pressure. The crude product was purified by column chromatography on silica gel using an elution gradient of dichloromethane:pentane (90:10) changing to dichloromethane (100%) and then to dichloromethane:methanol (98:2) to afford the title compound, 14.57 g (33%).

reactant | 2-(3-Bromophenyl)acetonitrile | 0.20 mol, 40 g | BrC=1C=C(C=CC1)CC#N | C8H6BrN
reactant | 2-methoxyethylamine | 0.81 mol, 61.3 g | COCCN | C3H9NO
reactant | triphenylphosphine | 0.03 mol, 8.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.61 mol, 62 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
catalyst | palladium acetate | 0.01 mol, 4.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(Cyanomethyl)-N-(methoxymethyl)benzamide | C(#N)CC=1C=C(C(=O)NCOC)C=CC1 | C11H12N2O2
